US09388177B2
(2R)—N-(4-bromophenyl)-2-(4-fluorophenyl)propanamide
To a stirred solution of (2R)-2-(4-fluorophenyl)propanoic acid (30.79 g) and 4-bromoaniline (30.0 g) in dimethylformamide (522 g) were added sodium bicarbonate (43.9 g) and HATU (99.5 g). The mixture was stirred at room temperature overnight. Then water (1000 g) was added followed by stirring at room temperature for 1 h. The precipitated solid was collected by filtration and washed with water (500 g) and dried by 50° C. in the vacuum overnight to give 52.59 g (93.6% of theory) of the title compound.

reactant | (2R)-2-(4-fluorophenyl)propanoic acid | 30.79 g | FC1=CC=C(C=C1)[C@H](C(=O)O)C | C9H9FO2
reactant | 4-bromoaniline | 30.0 g | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | sodium bicarbonate | 43.9 g | C([O-])(O)=O.[Na+]
reactant | HATU | 99.5 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | dimethylformamide | 522 g | CN(C=O)C | C3H7NO
solvent | water | 1000 g | O | H2O
product | (2R)—N-(4-bromophenyl)-2-(4-fluorophenyl)propanamide | BrC1=CC=C(C=C1)NC([C@H](C)C1=CC=C(C=C1)F)=O | C15H13BrFNO
